US07344702B2
Synthesis of 4-(2-(4-tert-butylphenyl)-ethoxy)-2-fluoro-quinazoline
A 15 ml round bottom flask is charged with 4-(2-(4-tert-butylphenyl)-ethoxy)-2-(trifluoromethanesulfonyloxy)-quinazoline (0.3 g, 0.66 mmol). Tetrabutylammonium fluoride solution (1M in THF, 3.3 ml, 3.3 mmol) is then added to it and the solution refluxed for 60 minutes. The mixture is then cooled and water is added to it. It is then extracted with dichloromethane, washed with water and dried. The crude obtained after concentration is purified by silica gel flash chromatography (ethyl acetate/hexanes) to obtain the desired compound.

reactant | 4-(2-(4-tert-butylphenyl)-ethoxy)-2-(trifluoromethanesulfonyloxy)-quinazoline | 0.66 mmol, 0.3 g | C(C)(C)(C)C1=CC=C(C=C1)CCOC1=NC(=NC2=CC=CC=C12)OS(=O)(=O)C(F)(F)F | C21H21F3N2O4S
reactant | Tetrabutylammonium fluoride | 3.3 mmol, 1M, 3.3 ml | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | water | O | H2O
product | 4-(2-(4-tert-butylphenyl)-ethoxy)-2-fluoro-quinazoline | C(C)(C)(C)C1=CC=C(C=C1)CCOC1=NC(=NC2=CC=CC=C12)F | C20H21FN2O
